US09216173B2
To 4-chloro-6-methylpyridin-2-amine (150 mg, 1.05 mmol) in a nitrogen purged vial was added morpholine (0.917 mL, 10.5 mmol). The reaction mixture was sealed and heated at 150° C. for 1.5 hours. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in DCM (10 mL) and washed with aqueous saturated sodium bicarbonate solution. The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (0-10% methanol/DCM with 1% ammonium hydroxide, linear gradient) to give 6-methyl-4-morpholinopyridin-2-amine. MS ESI calc'd. for C10H16N3O [M+H]+ 194. found 194. 1H NMR (500 MHz, DMSO-d6) δ 6.00 (s, 1H), 5.62 (s, 1H), 5.42 (s, 2H), 3.63 (m, 4H), 3.08 (m, 4H), 2.08 (s, 3H).

reactant | 4-chloro-6-methylpyridin-2-amine | 1.05 mmol, 150 mg | ClC1=CC(=NC(=C1)C)N | C6H7ClN2
reactant | morpholine | 10.5 mmol, 0.917 mL | N1CCOCC1 | C4H9NO
product | 6-methyl-4-morpholinopyridin-2-amine | CC1=CC(=CC(=N1)N)N1CCOCC1 | C10H15N3O
